US05403927
P. 2-O-β-D-glucopyranosyl-D-glucose (β-D-Glcp-(1-2)-D-Glc)
To this oligosaccharide (10 μmol), sodium acetate (30 μmol) in a small vial (Pierce reacti-vial, 0.2 mL capacity, with Tuf-bond Teflon-silicone cap seals) was added 150 μL water. 3-(trifluoromethyl)phenylhydrazine (40 μmol, Aldrich) was added, the sample sealed under nitrogen, and heated to 90° C. for 48 hours. The oligosaccharide was converted (>98%) to D-glucose and D-glucose 3-(trifluoromethyl)phenyl hydrazone, in a 1:2 ratio.

reactant | sodium acetate | 30 μmol | C(C)(=O)[O-].[Na+]
reactant | 3-(trifluoromethyl)phenylhydrazine | 40 μmol | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | D-glucose 3-(trifluoromethyl)phenyl hydrazone | FC(C=1C=C(C=CC1)NN=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)(F)F | C13H17F3N2O5
solvent | water | 150 μL | O | H2O
product | 2-O-β-D-glucopyranosyl-D-glucose | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H](C=O)[C@@H](O)[C@H](O)[C@H](O)CO | C12H22O11
